US04002753
A mixture of 4.18 g (0.02 moles) 3-chloro-6-diallylaminopyridazine and 4.16 g (0.04 moles) monocarbethoxyhydrazine is warmed up to 140° C and kept at this temperature for 1 hour. The mixture is taken up with cool water and sodium carbonate is added until neutral pH. It is then extracted with methylene chloride, the organic extracts collected together, dried over sodium sulphate and concentrated. The residual oil is purified by chromatography on silica gel column, eluting with a mixture of chloroform-methanol 9.5:0.5. The unitary fractions on thin layer chromatography with the same Rf are collected together; the solvent is eliminated by evaporation and a yellow oil formed by a 3-(2-carbethoxyhydrazino)-6-diallylaminopyridazine is obtained.

reactant | 3-chloro-6-diallylaminopyridazine | 0.02 moles, 4.18 g | ClC=1N=NC(=CC1)N(CC=C)CC=C | C10H12ClN3
reactant | monocarbethoxyhydrazine | 0.04 moles, 4.16 g | C(=O)(OCC)NN | C3H8N2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-(2-carbethoxyhydrazino)-6-diallylaminopyridazine | C(=O)(OCC)NNC=1N=NC(=CC1)N(CC=C)CC=C | C13H19N5O2
